* C:\Users\owenr\Desktop\paramp\osc.asc
Q1 voutn voutp N001 0 2N2222
Q2 voutp voutn N001 0 2N2222
L1 voutp voutn {losc} Rser=1
C1 voutp voutn {cosc}
V1 vdd 0 1.5
Q3 vdd voutp voutn 0 PNP
Q4 vdd voutn voutp 0 PNP
R1 N001 0 500
.model NPN NPN
.model PNP PNP
.lib C:\Users\owenr\AppData\Local\LTspice\lib\cmp\standard.bjt
.param losc = 200n
.param cosc=20p
.tran 0 {pfreq} {0.995*pfreq}
.param pfreq=10K*sqrt(losc * cosc)
.backanno
.end
